US07560462B2
Step 3. 3-(4-Methyl-2-nitro-phenylethynyl)-pyridine
To a stirred solution of 3-bromopyridine (608 mg, 3.85 mmol), PdCl2(PPh3)2 (246 mg, 0.35 mmol), and Cu(1)I (733 mg, 3.85 mmol) was added TEA (10 mL) followed by 1-ethynyl-4-methyl-2-nitro-benzene (564 mg, 3.5 mmol). After stirring at 60° C. for 4 h, the reaction was filtered, and diluted with EtOAc (150 mL) and 10% Na2CO3 (150 mL). The organic layer was washed with brine, dried over MgSO4; filtered, and dried under reduced pressure. The material was purified using a Biotage 40M cartridge eluting with hexanes/EtOAc (7/3) to yield a light brown oil.

reactant | 3-bromopyridine | 3.85 mmol, 608 mg | BrC=1C=NC=CC1 | C5H4BrN
reactant | 1-ethynyl-4-methyl-2-nitro-benzene | 3.5 mmol, 564 mg | C(#C)C1=C(C=C(C=C1)C)[N+](=O)[O-] | C9H7NO2
catalyst | PdCl2(PPh3)2 | 0.35 mmol, 246 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(4-Methyl-2-nitro-phenylethynyl)-pyridine | CC1=CC(=C(C=C1)C#CC=1C=NC=CC1)[N+](=O)[O-] | C14H10N2O2
